US04205085
2,3-Dihydroxypropyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate
A solution of 7.34 g. of 4-[15-(trifluoromethyl)pentadecylamino]benzoic acid, 4.80 g. of 25% aqueous sodium hydroxide, and 12.6 g. of 3-iodo-1,2-propanediol in 50 ml. of hexamethylphosphoramide is stirred for 24 hours at ambient temperature, diluted with 100 ml. of ether and stirred for 5 days at ambient temperature. The mixture is treated with water and extracted with ether. The dried extracts are evaporated to yield the product as a white solid.

reactant | 4-[15-(trifluoromethyl)pentadecylamino]benzoic acid | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1)(F)F | C23H36F3NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-iodo-1,2-propanediol | ICC(CO)O | C3H7IO2
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2,3-Dihydroxypropyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OCC(CO)O)C=C1)(F)F | C26H42F3NO4
